US07410976B2
A solution of 21.8 mL of acetylenedicarboxylate (0.18 mol) in 50 mL of MeOH was added dropwise to a solution of 22.5 g of 2-cyclopropylaniline (0.17 mol) in 150 mL of MeOH over 1 hr and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated and the residue was taken up into 30 mL of diphenyl ether. The solution was added dropwise to 200 mL of diphenyl ether heated at 250 C and the mixture was stirred at the temperature for 30 min. The reaction mixture was concentrated in vacuo and the residue was purified on a SiO2 column chromatography (eluted with n-Hex/AcOEt=1/1) to give methyl 4-hydroxy-8-cyclopropylquinoline-2-carboxylate as a pale yellow solid.

reactant | acetylenedicarboxylate | 0.18 mol, 21.8 mL | C(#CC(=O)[O-])C(=O)[O-]
reactant | 2-cyclopropylaniline | 0.17 mol, 22.5 g | C1(CC1)C1=C(N)C=CC=C1 | C9H11N
reactant | MeOH | 50 mL | CO | CH4O
reactant | MeOH | 150 mL | CO | CH4O
product | methyl 4-hydroxy-8-cyclopropylquinoline-2-carboxylate | OC1=CC(=NC2=C(C=CC=C12)C1CC1)C(=O)OC | C14H13NO3
